US08614215B2
Intermediate 2: Methyl 4-methoxy-2-nitrobenzoate
To a solution of 4-methoxy-2-nitrobenzoic acid (12 g; 61 mmol; 1 eq; commercially available from Aldrich) in MeOH (200 mL) is added thionyl chloride (13 mL, 178 mmol, 2.9 eq) and the mixture is stirred at room temperature for 15 h. The solvent is removed under vacuum and the residue is diluted with EtOAc (150 mL) and washed with a 10% aqueous solution of sodium bicarbonate, water, and then dried over MgSO4. The solvent is removed under reduced pressure to afford 11 g (85%) of the title compound as a white solid. 1H NMR (CDCl3, 400 MHz) δ 7.81-7.79 (m, 1H), 7.27-7.25 (m, 1H), 7.13-7.11 (m, 1H), 3.92 (s, 3H), 3.89 (s, 3H).

reactant | 4-methoxy-2-nitrobenzoic acid | COC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
reactant | thionyl chloride | 178 mmol, 13 mL, 2.9 eq | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 200 mL | CO | CH4O
product | Methyl 4-methoxy-2-nitrobenzoate | 11 g, 85% | COC1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H9NO5
